US06048872
Sodium hydride (1.29 g of 60% dispersion in oil) was added portionwise to a stirred solution of malonic acid, methyl benzyl ester (5.84 ml) in dry N,N-dimethylformamide (40 ml). After 2.5 h 2-fluoro-5-nitro-toluene (5.0 g) was added, and the mixture was warmed to 100° for 18 h. The mixture was cooled then partioned between ethyl acetate and water. The aqueous phase was separated and extracted further with ethyl acetate. The combined organic extracts were dried, concentrated, and purified by chromatography eluting with cyclohexane:ethyl acetate (6:1) to give 2-(2-methyl-4-nitro-phenyl)-malonic acid benzyl ester methyl ester, admixed with the starting malonate ester, as a yellow oil (4.60 g).

reactant | Sodium hydride | 1.29 g | [H-].[Na+]
reactant | malonic acid, methyl benzyl ester | 5.84 ml | C(CC(=O)OCC1=CC=CC=C1)(=O)OC | C11H12O4
reactant | 2-fluoro-5-nitro-toluene | 5.0 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-(2-methyl-4-nitro-phenyl)-malonic acid benzyl ester methyl ester | COC(C(C(=O)OCC1=CC=CC=C1)C1=C(C=C(C=C1)[N+](=O)[O-])C)=O | C18H17NO6
